US05506190
N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide (1.00 g, 2.75 mmol), furfurylamine (0.320 g, 3.29 mmol), and acetonitrile (25 ml) as a solvent were placed into a round bottom flask (50 cc) and stirred for 2 hours at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure, and the precipitated crystals were isolated by filtration. The crystals were washed with hexane and dried to obtain N-(2-fluoro-4-chloro-5-cyclo-pentyloxyphenyl)-N'-furfuryl-3,4,5,6-tetrahydrophthalamide as light brown crystals (0.860 g, 68.0% yield).

reactant | N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydrophthalimide | 2.75 mmol, 1.00 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=C(C1=O)CCCC2)=O | C19H19ClFNO3
reactant | furfurylamine | 3.29 mmol, 0.320 g | C(C1=CC=CO1)N | C5H7NO
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-(2-fluoro-4-chloro-5-cyclo-pentyloxyphenyl)-N'-furfuryl-3,4,5,6-tetrahydrophthalamide | 0.860 g, 68.0% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NCC2=CC=CO2)CCCC1)=O | C24H26ClFN2O4
